US08530475B2
(S)-1-(7-Chloro-quinolin-4-yloxy)-3-[9-(9H-fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl]-propan-2-ol
(S)-7-Chloro-4-oxiranylmethoxy-quinoline (20 mg, 0.084 mmol) and Z-(1S,6S)-7-(9H-fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene (22 mg, 0.073 mmol) were placed in a μW tube with ethanol (3 ml), DIPEA (15 μL, 0.086 mmol) and heated to 95° C. for 900 sec. The solvent was evaporated from the reaction mixture and the residue was purified via reverse phase chromatography (gradient 20% to 90% CH3CN/water for 12 min) to yield the title compound as a residue.

reactant | (S)-7-Chloro-4-oxiranylmethoxy-quinoline | 0.084 mmol, 20 mg | ClC1=CC=C2C(=CC=NC2=C1)OC[C@H]1OC1 | C12H10ClNO2
reactant | Z-(1S,6S)-7-(9H-fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.073 mmol, 22 mg | C1=C(C=CC=2C3=CC=CC=C3CC12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C21H22N2
reactant | DIPEA | 0.086 mmol, 15 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (S)-1-(7-Chloro-quinolin-4-yloxy)-3-[9-(9H-fluoren-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl]-propan-2-ol | ClC1=CC=C2C(=CC=NC2=C1)OC[C@H](CN1C2CC=CCC(C1)N(C2)C2=CC=1CC3=CC=CC=C3C1C=C2)O | C33H32ClN3O2
